US08809529B2
2-((3-benzyl-5-(4-hydroxyphenyl)pyrazin-2-yl)amino)hexanoic acid.
4-(5-amino-6-benzylpyrazin-2-yl)phenol (200 mg, 0.72 mmol) was mixed with 2-Ketohexanoic acid sodium salt (220 mg, 1.44 mmol) in ethanol (20 mL). Pd/C (10% Palladium in active carbon, 100 mg) was added with a few drops of acetic acid, and the reaction mixture heated to 65° C. Air was bubbled out by N2 gas, and a hydrogen balloon applied to the reaction flask. The reaction was continuously stirred for 4 hrs. After cooling down, it was filtered and the resulting solution was purified by flash chromatography (eluting solvent: 50% EtOAc in heptanes) to give the product as a yellow powder (130 mg, 46%). MS (ESI): m/z 392.2 (M+1).

reactant | 4-(5-amino-6-benzylpyrazin-2-yl)phenol | 0.72 mmol, 200 mg | NC=1N=CC(=NC1CC1=CC=CC=C1)C1=CC=C(C=C1)O | C17H15N3O
reactant | 2-Ketohexanoic acid sodium salt | 1.44 mmol, 220 mg | [Na+].O=C(C(=O)[O-])CCCC
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-((3-benzyl-5-(4-hydroxyphenyl)pyrazin-2-yl)amino)hexanoic acid | 130 mg, 46% | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)O)NC(C(=O)O)CCCC | C23H25N3O3
